US06174455B1
22.29 g (0.1 mol) of 2-bromo-6-naphthol, 11.22 g (0.2 mol) of potassium hydroxide, and 32.36 g (0.13 mol) of 1-bromododecane were dissolved in ethanol (300 ml), and the solution was refluxed for 8 hr. Thereafter, water was added thereto, the mixture was cooled, and the resultant precipitate was collected by filtration and washed with a sodium hydroxide solution and then with water. The crude product thus obtained was recrystallized from ethyl acetate to give 2-bromo-6-dodecyloxynaphthalene.

reactant | 2-bromo-6-naphthol | 0.1 mol, 22.29 g | BrC1=CC2=CC=C(C=C2C=C1)O | C10H7BrO
reactant | potassium hydroxide | 0.2 mol, 11.22 g | [OH-].[K+]
reactant | 1-bromododecane | 0.13 mol, 32.36 g | BrCCCCCCCCCCCC | C12H25Br
reactant | water | O | H2O
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 2-bromo-6-dodecyloxynaphthalene | BrC1=CC2=CC=C(C=C2C=C1)OCCCCCCCCCCCC | C22H31BrO
